US08648069B2
3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propanenitrile
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (5.00 g, 25.8 mmol) in acetonitrile (50 mL) was added acrylonitrile (3.4 mL, 52 mmol) followed by 1,8-diazabicyclo[5.4.0]undec-7-ene (1.94 mL, 12.9 mmol). After about 2 hours, the reaction mixture was concentrated under reduced pressure. The crude material was then dissolved in a minimal amount of dichloromethane and purified via silica gel chromatography eluting with a gradient of 10-50% ethyl acetate in heptane to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.03 (s, 1H), 7.64 (s, 1H), 4.40 (t, J=6.4 Hz, 2H), 3.06 (t, J=6.4 Hz, 2H), 1.26 (s, 12H). MS (ESI+) m/z 247.3 (M+H)+.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 25.8 mmol, 5.00 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | acrylonitrile | 52 mmol, 3.4 mL | C(C=C)#N | C3H3N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 12.9 mmol, 1.94 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propanenitrile | CC1(OB(OC1(C)C)C=1C=NN(C1)CCC#N)C | C12H18BN3O2
